US06939870B2
A dried flask under nitrogen was loaded with sodium hydride (0.015 g, 0.37 mmol) and THF (10 mL). At 0° C. 3-[2-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)ethyl]-4(3H)-quinazolinone (0.80 g, 2.16 mmol), was added and the mixture stirred for 15 minutes. Keeping the reaction temperature at 0° C., the iodomethane was added dropwise (0.14 mL, 2.16 mmol). This was allowed to warm to room temperature and stir overnight. Water was slowly added to the mixture to quench and the organics were extracted in chloroform, washed with water and dried over Na2SO4, filtered and concentrated. The residue was chromatograhed using silica (2% methanol:chloroform system); 0.52 g of 3-[2-(4-(1-methyl-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)ethyl]-4(3H)-quinazolinone was isolated as an orange solid. Yield 63%; MS: 384.9 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 2.79 (m, 2H), 3.17 (m, 4H), 3.20 (m, 2H), 3.61 (m, 2H), 3.76 (s, 3H), 4.44 (t, 2H), 6.12 (t, 1H), 7.00 (t, 1H), 7.37 (m, 1H), 7.53 (m, 1H), 7.45 (m, 2H), 7.81 (m, 1H), 8.17 (d, 1H), 8.35 (s, 1H).

reactant | sodium hydride | 0.37 mmol, 0.015 g | [H-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 3-[2-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)ethyl]-4(3H)-quinazolinone | 2.16 mmol, 0.80 g | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCN1C=NC2=CC=CC=C2C1=O | C23H22N4O
reactant | iodomethane | IC | CH3I
solvent | Water | O | H2O
product | 3-[2-(4-(1-methyl-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)ethyl]-4(3H)-quinazolinone | 0.52 g, Yield 63% | CN1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCN1C=NC2=CC=CC=C2C1=O | C24H24N4O
